US06329389B1
A THF (10 ml) solution of oxalyl chloride (1.6 ml) was added dropwise to a THF (50 ml) solution of N-(9-fluorenylmethoxycarbonyl)-D-tryptophan (6.444 g) and DMF (0.14 ml) at 0° C. The reaction mixture was stirred at 0° C. for one hour, then concentrated. An ethyl acetate (15 ml) solution of the residue was added dropwise to the mixture of an ethyl acetate (30 ml) solution of 7-chloro-3-(N, N-dimethylamino )methyl-1,2,3, 4-tetrahydroquinoline (1.128 g) and a saturated aqueous sodium bicarbonate solution (25 ml) at 0° C. The reaction mixture was stirred at room temperature f or one hour, and the organic layer was separated. The organic layer was washed with a saturated aqueous sodium chloride solution, then dried and concentrated. The residue was purified by alumina column chromatography (eluent: hexane/ethyl acetate=1/1) to obtain 7-chloro-3-(R,S)-(N,N-dimethylamino)methyl-1-[2-(R)-(9-fluorenylmethoxy)carbonylamino-3-(indol-3-yl)propanoyl]-1,2,3,4-tetrahydroquinoline (107.4 g). Piperidine (1.4 ml) was added to a methanol (30 ml) solution of this compound at room temperature. The reaction mixture was stirred at room temperature for 15 hours, then concentrated. The residue was purified by alumina column chromatography (eluent: ethyl acetate/methanol=10/1) to obtain the entitled compound (1.012 g).

reactant | THF | 10 ml | C1CCOC1 | C4H8O
reactant | oxalyl chloride | 1.6 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | THF | 50 ml | C1CCOC1 | C4H8O
reactant | N-(9-fluorenylmethoxycarbonyl)-D-tryptophan | 6.444 g | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N[C@H](CC1=CNC2=CC=CC=C12)C(=O)O | C26H22N2O4
reactant | DMF | 0.14 ml | CN(C)C=O | C3H7NO
product | 7-chloro-3-(R,S)-(N,N-dimethylamino)methyl-1-[2-(R)-(9-fluorenylmethoxy)carbonylamino-3-(indol-3-yl)propanoyl]-1,2,3,4-tetrahydroquinoline | 107.4 g | ClC1=CC=C2CC(CN(C2=C1)C([C@@H](CC1=CNC2=CC=CC=C12)NC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12)=O)CN(C)C | C38H37ClN4O3
